US08633186B2
2-(2-(1H-pyrrol-1-yl)ethoxy)-6-nitrobenzonitrile
Prepared as in Example 166d from 2-(1H-pyrrol-1-yl)ethanol and 2,6-dinitrobenzonitrile, in 42.5% yield. MS 258 (MH+).

reactant | 2-(1H-pyrrol-1-yl)ethanol | N1(C=CC=C1)CCO | C6H9NO
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(2-(1H-pyrrol-1-yl)ethoxy)-6-nitrobenzonitrile | 42.5% yield | N1(C=CC=C1)CCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C13H11N3O3
